* SPICE Subcircuit for 1/2 of Fuji 2MBI1500XYF170-50 (Ngspice Compatible)
* Pins: Collector (C), Gate (G), Emitter (E)
.SUBCKT 2MBI1500XYF170 C G E

* Internal Gate Resistor
Rg G G_int 0.67

* Main Switch Component (Using ngspice-compatible NMOS primitive)
M1 C G_int E E NMOS_MODEL 

* Explicit Parasitic Capacitances
Cge G_int E 184.65n  ; Gate-Emitter Cap (Cies - Cres = 185n - 0.35n)
Cgc G_int C 0.35n    ; Gate-Collector Cap (Miller / Cres)
Cce C E 11.15n       ; Collector-Emitter Cap (Coes - Cres = 11.5n - 0.35n)

* Antiparallel Freewheeling Diode (FWD)
D1 E C FWD_MODEL

* --- DATASHEET PARAMETERS ---
.MODEL NMOS_MODEL NMOS(
+ VTO=6.5             ; Threshold voltage
+ KP=100              ; Transconductance (approximated for high current)
+ )

.MODEL FWD_MODEL D(
+ BV=1700             ; Diode breakdown voltage
+ IS=1E-9             ; Saturation current
+ N=1.5               ; Emission coefficient 
+ RS=0.0004           ; Ohmic resistance
+ )

.ENDS 2MBI1500XYF170